US07868036B2
c) tert-Butyl {1-formyl-3-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-4-methylpentyl}carbamate
1.04 ml of triethylamine and then a solution of 1.31 g of sulphur trioxide-pyridine complex are added at 0° C. to the solution of 0.86 g of tert-butyl {1-hydroxymethyl-3-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-4-methylpentyl}carbamate in 8 ml of dichloromethane. After 45 minutes, the reaction mixture is admixed cautiously with ice-water. The resulting mixture is poured onto 1N HCl/ice and extracted with ethyl acetate (3×). The combined organic phases are washed successively with water (2×) and brine, clarified by filtration through Hyflo®, dried over sodium sulphate and concentrated by evaporation. In this way, the crude title compound is obtained.

reactant | triethylamine | 1.04 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyl {1-hydroxymethyl-3-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-4-methylpentyl}carbamate | 0.86 g | OCC(CC(C(C)C)CC1=CC2=C(C=CC=C2C=C1)OCCOC)NC(OC(C)(C)C)=O | C26H39NO5
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | tert-Butyl {1-formyl-3-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-4-methylpentyl}carbamate | C(=O)C(CC(C(C)C)CC1=CC2=C(C=CC=C2C=C1)OCCOC)NC(OC(C)(C)C)=O | C26H37NO5
